US20010027196A1
To a stirred suspension of 680 mg (2.66 mmol) 2-amino-4-furan-2-yl-6-methylsulfanyl-pyridine-3,5-dicarbonitrile in 25 ml dichloromethane was added 1,39 g (5.32 mmol) 3!phenyl-2-(phenylsulfonyl)oxaziridine and stirring continued for 48 hours at room temperature. The resulting crystals were collected by filtration and washed with cold dichloromethane to afford lo 670 mg (93%) 2-amino-4-furan-2-yl-6-methanesulfinyl-pyridine-3,5-dicarbonitrile as a light brown crystalline solid. ES-MS m/e (%): 295 (M+Na+, 70), 273 (M+H+, 100).

reactant | 2-amino-4-furan-2-yl-6-methylsulfanyl-pyridine-3,5-dicarbonitrile | 2.66 mmol, 680 mg | NC1=NC(=C(C(=C1C#N)C=1OC=CC1)C#N)SC | C12H8N4OS
reactant | phenyl-2-(phenylsulfonyl)oxaziridine | C1(=CC=CC=C1)C1N(O1)S(=O)(=O)C1=CC=CC=C1 | C13H11NO3S
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 2-amino-4-furan-2-yl-6-methanesulfinyl-pyridine-3,5-dicarbonitrile | 670 mg, 93% | NC1=NC(=C(C(=C1C#N)C=1OC=CC1)C#N)S(=O)C | C12H8N4O2S
